US07915295B2
d) N-[(1S,1aR,7bR)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromen-1-yl]-N′-[5-(4-aminophenoxy)-2-pyridinyl]urea
Dried N-[(1S,1aR,7bR)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromen-1-yl]-N′-[5-(4-(N-t-butoxycarbonylamino)phenoxy)-2-pyridinyl]urea (242 mg, 0.46 mmol) was dissolved in methylene chloride (2 ml) and then 1M HCl/AcOH (4.6 ml) was added and the reaction solution was stirred for 60 minutes at room temperature. The volatile matters were removed by evaporation. The residue was worked up by extractions between methylene chloride and sat. aq. NaHCO3. The organic phase was dried through sodium sulfate and evaporated. Silica gel column chromatography (1-3% EtOH/methylene chloride gradient) gave 139 mg of pure product as white powder (71% yield).

reactant | N-[(1S,1aR,7bR)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromen-1-yl]-N′-[5-(4-(N-t-butoxycarbonylamino)phenoxy)-2-pyridinyl]urea | 0.46 mmol, 242 mg | FC1=CC=C(C=2[C@H]3[C@@H](COC12)[C@H]3NC(=O)NC3=NC=C(C=C3)OC3=CC=C(C=C3)NC(=O)OC(C)(C)C)F | C27H26F2N4O5
reactant | HCl AcOH | 1M, 4.6 ml | Cl.CC(=O)O
reactant | EtOH methylene chloride | CCO.C(Cl)Cl
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | N-[(1S,1aR,7bR)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromen-1-yl]-N′-[5-(4-aminophenoxy)-2-pyridinyl]urea | 139 mg, 71% yield | FC1=CC=C(C=2[C@H]3[C@@H](COC12)[C@H]3NC(=O)NC3=NC=C(C=C3)OC3=CC=C(C=C3)N)F | C22H18F2N4O3
